US07964732B2
(R)-N-((S)-1-(5-chloro-1-methyl-1H-pyrazol-4-yl)ethyl)-2-methylpropane-2-sulfinamide
(R,E)-N-((5-chloro-1-methyl-1H-pyrazol-4-yl)methylene)-2-methylpropane-2-sulfinamide (100 mg, 0.404 mmol) was dissolved in dichloromethane (10 ml) placed under nitrogen and cooled to −78° C. 1.4M methyl magnesium bromide solution (toluene:THF 3:1, 1.04 ml, 1.45 mmol) was added dropwise and reaction stirred overnight while warming to room temperature. Saturated aqueous ammonium chloride solution (20 ml) was added to the reaction and stirred for 5 minutes. The product was extracted with EtOAc (2×15 ml), combined organics were washed with brine (15 ml), dried over Na2SO4, filtered and concentrated and purified by silica gel column chromatography eluted with heptane/ethyl acetate=100/0 to 0/100 to furnish the title product as a clear gum (57 mg, 53% yield). 1H NMR (400 MHz, CD3OD) 1.18-1.19 (9H s) 1.54-1.56 (3H d) 3.81-3.82 (3H s) 4.41-4.47 (1H q) 7.50-7.51 (1H s) MS (ESI) m/z 264 (M+H)+

reactant | (R,E)-N-((5-chloro-1-methyl-1H-pyrazol-4-yl)methylene)-2-methylpropane-2-sulfinamide | 0.404 mmol, 100 mg | ClC1=C(C=NN1C)\C=N\[S@](=O)C(C)(C)C | C9H14ClN3OS
reactant | methyl magnesium bromide | 1.45 mmol, 1.4M, 1.04 ml | C[Mg]Br
reactant | ammonium chloride | 20 ml | [Cl-].[NH4+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (R)-N-((S)-1-(5-chloro-1-methyl-1H-pyrazol-4-yl)ethyl)-2-methylpropane-2-sulfinamide | 57 mg, 53% yield | ClC1=C(C=NN1C)[C@H](C)N[S@](=O)C(C)(C)C | C10H18ClN3OS
